US08242130B2
In a 50 mL round-bottomed flask fitted with condenser and magnetic stirrer were placed 2-(4-hydroxyphenyl)chromen-4-one (100 mg, 0.419 mmol), pyridine (5 mL) and nicotinoyl chloride (223 mg, 1.25 mmol). The reaction mixture was stirred for 24 h at rt under nitrogen. The solvent was removed under reduced pressure and crude product was purified by column chromatography using 50% EtOAc in hexane to give 100 mg of 4-(4-oxo-4H-chromen-2-yl)phenyl nicotinate (69%). MS (ES) m/z: 344.09 (M+1).

reactant | 2-(4-hydroxyphenyl)chromen-4-one | 0.419 mmol, 100 mg | OC1=CC=C(C=C1)C=1OC2=CC=CC=C2C(C1)=O | C15H10O3
reactant | nicotinoyl chloride | 1.25 mmol, 223 mg | C(C1=CN=CC=C1)(=O)Cl | C6H4ClNO
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 4-(4-oxo-4H-chromen-2-yl)phenyl nicotinate | 100 mg, 69% | C(C1=CN=CC=C1)(=O)OC1=CC=C(C=C1)C=1OC2=CC=CC=C2C(C1)=O | C21H13NO4
